US07737153B2
N4-[3-Fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-yloxy)phenyl]-6-piperidin-3-ylpyrimidine-2,4-diamine
At room temperature, 1.36 g (2.46 mmol) of benzyl 3-(2-amino-6-{[3-fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-yloxy)phenyl]amino}pyrimidin-4-yl)piperidine-1-carboxylate (from example LXXIV) and 0.4 g of 10% palladium-on-carbon in ethanol are stirred under an atmosphere of hydrogen for 24 hours. The suspension is filtered off with suction through Celite®, and the filtrate is concentrated.

reactant | benzyl 3-(2-amino-6-{[3-fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-yloxy)phenyl]amino}pyrimidin-4-yl)piperidine-1-carboxylate | 2.46 mmol, 1.36 g | NC1=NC(=CC(=N1)C1CN(CCC1)C(=O)OCC1=CC=CC=C1)NC1=CC(=C(C=C1)OC1=C2C(=NC=C1)NC=C2)F | C30H28FN7O3
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.4 g | [Pd] | Pd
product | N4-[3-Fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-yloxy)phenyl]-6-piperidin-3-ylpyrimidine-2,4-diamine | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NC=C2)NC2=NC(=NC(=C2)C2CNCCC2)N | C22H22FN7O
